US06143764
N-Benzoyl-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [189]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (52 mg) was dissolved in toluene (5 ml) with heat, benzoyl isocyanate (0.2 ml) was added, and the admixture was refluxed with heat for 50 minutes. The resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 11 mg of the title compound (yield: 15%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 52 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | benzoyl isocyanate | 0.2 ml | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-Benzoyl-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 11 mg, yield: 15% | C(C1=CC=CC=C1)(=O)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C25H21N3O5
